US08124249B2
a) 1,3-Bis(2-bromophenyloxy)propane
2.6 g (110 mmol) of sodium hydride are added in portions with vigorous stirring to a solution of 18.2 g (105 mmol) of 2-bromophenol in 200 ml of DMF. After the mixture has been stirred for a further 15 min., 1.5 g (10 mmol) of sodium iodide are added. A mixture of 4.8 ml (50 mmol) of 1,3-dibromopropane in 50 ml of DMF is added dropwise to this mixture, which is subsequently stirred at room temperature for 60 h. 5 ml of ethanol are added dropwise to the reaction mixture, which is then poured into 1000 ml of water and extracted three times with 200 ml of dichloromethane. The combined organic phases are washed five times with 500 ml of water, dried over MgSO4 and evaporated under reduced pressure. The foam which remains is washed by stirring with 200 ml of n-heptane, filtered off with suction, washed with n-heptane and dried under reduced pressure. Yield: 15.0 g, 77.7% of theory, purity: 98.0% according to 1H-NMR.

reactant | sodium hydride | 110 mmol, 2.6 g | [H-].[Na+]
reactant | 2-bromophenol | 105 mmol, 18.2 g | BrC1=C(C=CC=C1)O | C6H5BrO
reactant | sodium iodide | 10 mmol, 1.5 g | [I-].[Na+]
reactant | 1,3-dibromopropane | 50 mmol, 4.8 ml | BrCCCBr | C3H6Br2
reactant | water | 1000 ml | O | H2O
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 1,3-Bis(2-bromophenyloxy)propane | BrC1=C(C=CC=C1)OCCCOC1=C(C=CC=C1)Br | C15H14Br2O2
